US04415572
5-(1-Piperazinyl)-3,4-dihydrocarbostyril (1.0 g) was added to a mixture of 10 ml of DMF and 0.85 ml of trimethylamine and the mixture was stirred at room temperature while slowly adding dropwise 5 ml of DMF solution containing 1.07 g of p-toluenesulfonyl chloride. After completion of addition, the reaction mixture was stirred at the same temperature as above for 30 minutes. The reaction mixture was poured into a large amount of saturated saline solution and extracted with chloroform. The extract was washed with water and dried over anhydrous sodium sulfate. Chloroform was distilled off and residual crystals were recrystallized from DMF to give 800 mg of 5-[4-(p-toluenesulfonyl)-1-piperazinyl]-3,4-dihydrocarbostyril, m.p. 302°-304° C., colorless powders.

reactant | 5-(1-Piperazinyl)-3,4-dihydrocarbostyril | 1.0 g | N1(CCNCC1)C1=C2CCC(NC2=CC=C1)=O | C13H17N3O
reactant | trimethylamine | 0.85 ml | CN(C)C | C3H9N
reactant | p-toluenesulfonyl chloride | 1.07 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 5-[4-(p-toluenesulfonyl)-1-piperazinyl]-3,4-dihydrocarbostyril | 800 mg | C1(=CC=C(C=C1)S(=O)(=O)N1CCN(CC1)C1=C2CCC(NC2=CC=C1)=O)C | C20H23N3O3S
